US07812183B2
(3S,4R)-3-Hydroxy-2,2-dimethyl-4-(quinazolin-4-yloxy)-chroman-6-carbonitrile (Compound #40)
Following the procedure in Example 1, using (S,S)-2,2-dimethyl-1a,7 b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and quinazolin-4-ol as starting material, the title compound was prepared as a white solid.

reactant | (S,S)-2,2-dimethyl-1a,7 b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1([C@@H]2[C@H](C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | quinazolin-4-ol | N1=CN=C(C2=CC=CC=C12)O | C8H6N2O
product | (3S,4R)-3-Hydroxy-2,2-dimethyl-4-(quinazolin-4-yloxy)-chroman-6-carbonitrile | O[C@@H]1C(OC2=CC=C(C=C2[C@H]1OC1=NC=NC2=CC=CC=C12)C#N)(C)C | C20H17N3O3
